US06537948B1
Sodium hydride is added to a mixture of 5-benzyloxy-4-chloropyrimidine, methyl lactate and tetrahydrofuran at 0° C. The mixture is stirred at room temperature for 1 hour, then, stirred for 30 minutes at 90° C. The reaction solution is cooled to room temperature, then, poured into ice water, and extracted with ethyl acetate. The organic layer is washed with dilute hydrochloric acid and saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue is subjected to silica gel column chromatography to obtain 5-benzyloxy-4-{1-(methoxycarbonyl)ethoxy}pyrimidine.

reactant | Sodium hydride | [H-].[Na+]
reactant | 5-benzyloxy-4-chloropyrimidine | C(C1=CC=CC=C1)OC=1C(=NC=NC1)Cl | C11H9ClN2O
reactant | methyl lactate | C(C(O)C)(=O)OC | C4H8O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-benzyloxy-4-{1-(methoxycarbonyl)ethoxy}pyrimidine | C(C1=CC=CC=C1)OC=1C(=NC=NC1)OC(C)C(=O)OC | C15H16N2O4
